US03998834
A mixture of 7.73 parts of (2-bromoethyl)benzene, 11.7 parts of methyl 4-[(ethoxycarbonyl)phenylamino]-4-piperidinecarboxylate, 6.9 parts of N,N-diethylethanamine and 171 parts of N,N-dimethylacetamide is stirred for 3 hours at 70° C. The reaction mixture is cooled to room temperature and poured onto 600 parts of water. The product is extracted with 360 parts of benzene. The extract is washed three times with water, dried, filtered and evaporated. The residue is purified twice by column-chromatography over silica gel using first trichloromethane and then a mixture of trichloromethane and methanol (95:5) as eluent. The pure fractions are collected and the eluent is evaporated. The residue is converted into the ethanedioate salt in 2-propanol. The salt is filtered off and boiled in 2-propanol. The product is filtered off and dried in vacuo at 120° C, yielding 5 parts of methyl 4-[(ethoxycarbonyl)phenylamino]-1-(2-phenylethyl)-4-piperidinecarboxylate ethanedioate; mp. 206.8° C.

reactant | (2-bromoethyl)benzene | BrCCC1=CC=CC=C1 | C8H9Br
reactant | methyl 4-[(ethoxycarbonyl)phenylamino]-4-piperidinecarboxylate | C(C)OC(=O)N(C1(CCNCC1)C(=O)OC)C1=CC=CC=C1 | C16H22N2O4
reactant | N,N-diethylethanamine | C(C)N(CC)CC | C6H15N
reactant | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
reactant | water | O | H2O
product | methyl 4-[(ethoxycarbonyl)phenylamino]-1-(2-phenylethyl)-4-piperidinecarboxylate ethanedioate | C(C(=O)O)(=O)O.C(C)OC(=O)N(C1(CCN(CC1)CCC1=CC=CC=C1)C(=O)OC)C1=CC=CC=C1 | InChI=1S/C24H30N2O4.C2H2O4/c1-3-30-23(28)26(21-12-8-5-9-13-21)24(22(27)29-2)15-18-25(19-16-24)17-14-20-10-6-4-7-11-20;3-1(4)2(5)6/h4-13H,3,14-19H2,1-2H3;(H,3,4)(H,5,6)
